US09227978B2
tert-Butyl 4-(1-acryloylazetidin-3-yl)-3-carbamoylpiperazine-1-carboxylate
To a solution of tert-butyl 4-(azetidin-3-yl)-3-carbamoylpiperazine-1-carboxylate (640 mg, 2.22 mmol) and Et3N (463 mg, 4.58 mmol) in DCM (10 mL) at 0° C., acryloyl chloride (248 mg, 2.74 mmol) was added dropwise and the resulting mixture was stirred at RT for 1.5 h. The mixture was partitioned between dichloromethane and saturated NaHCO3 solution. The organic layer was washed with saturated brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (dichloromethane/methanol=50:1) to afford the desired product (350 mg, 47% yield).

reactant | tert-butyl 4-(azetidin-3-yl)-3-carbamoylpiperazine-1-carboxylate | 2.22 mmol, 640 mg | N1CC(C1)N1C(CN(CC1)C(=O)OC(C)(C)C)C(N)=O | C13H24N4O3
reactant | Et3N | 4.58 mmol, 463 mg | CCN(CC)CC | C6H15N
reactant | acryloyl chloride | 2.74 mmol, 248 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-(1-acryloylazetidin-3-yl)-3-carbamoylpiperazine-1-carboxylate | 350 mg, 47% yield | C(C=C)(=O)N1CC(C1)N1C(CN(CC1)C(=O)OC(C)(C)C)C(N)=O | C16H26N4O4
